US09216999B2
rac-1-[(3R,4R)-4-Methylpiperidin-3-yl]-1,2,4,7-tetrahydropyrrolo[3′,2′:5,6]pyrido[4,3-d][1,3]oxazine
rac-1-[(3R,4R)-1-Benzyl-4-methylpiperidin-3-yl]-1,2,4,7-tetrahydropyrrolo[3′,2′:5,6]pyrido[4,3-d][1,3]oxazine (28.2 mg, 0.0777 mmol) in ethanol was stirred with 5% palladium-carbon (30 mg) and concentrated hydrochloric acid (2 drops) at 50° C. for 2 hours under a hydrogen atmosphere. The reaction mixture was allowed to cool to room temperature and filtered, and the filtrate was concentrated under reduced pressure to give the title compound (21.2 mg, yield 100%).

reactant | rac-1-[(3R,4R)-1-Benzyl-4-methylpiperidin-3-yl]-1,2,4,7-tetrahydropyrrolo[3′,2′:5,6]pyrido[4,3-d][1,3]oxazine | 0.0777 mmol, 28.2 mg | C(C1=CC=CC=C1)N1C[C@@H]([C@@H](CC1)C)N1COCC2=C1C1=C(N=C2)NC=C1 | C22H26N4O
solvent | ethanol | C(C)O | C2H6O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
catalyst | palladium-carbon | 30 mg | [C].[Pd]
product | rac-1-[(3R,4R)-4-Methylpiperidin-3-yl]-1,2,4,7-tetrahydropyrrolo[3′,2′:5,6]pyrido[4,3-d][1,3]oxazine | 21.2 mg, yield 100% | C[C@H]1[C@H](CNCC1)N1COCC2=C1C1=C(N=C2)NC=C1 | C15H20N4O
